2142-07-04 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -fever to 103.2, tachycardia, sats in high 80s, low 90s
   -got 3L of LR overnight
   -refused a foley
   -UOP 60-70cc/hr
   -repleted K and phos
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2142-7-3**] 10:20 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-7-4**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 37.3
C (99.2
   HR: 124 (107 - 143) bpm
   BP: 119/65(77) {97/50(61) - 122/99(81)} mmHg
   RR: 46 (15 - 46) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                 10,098 mL
                                                                    248 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  3,498 mL
                                                                    248 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                    350 mL
   Urine:
                                                                  2,900 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,198 mL
                                                                   -102 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 6L
   SpO2: 94%
   Physical Examination
   GENERAL: Sleepy, in no apparent distress, mannerisms younger than
   stated age
   HEENT: Normocephalic, atraumatic. No scleral icterus.  MMM. OP clear
   without redness or exudates.  Neck Supple, No LAD, tender over left
   lateral neck adjacent to airway
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1011**].
   LUNGS: diffuse crackles, especially on left
   ABDOMEN: NABS. Soft, ND. Diffuse tenderness. No HSM.
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. No gross motor or sensory deficits
   Labs / Radiology
   64 K/uL
   8.5 g/dL
   88 mg/dL
   0.6 mg/dL
   19 mEq/L
   3.6 mEq/L
   6 mg/dL
   111 mEq/L
   142 mEq/L
   25.8 %
   9.4 K/uL
        [image002.jpg]
                             [**2142-7-3**]  04:33 AM
                             [**2142-7-3**]  03:35 PM
                             [**2142-7-4**]  02:53 AM
   WBC
   5.0
   6.8
   9.4
   Hct
   27.2
   27.2
   25.8
   Plt
   53
   58
   64
   Cr
   0.7
   0.6
   0.6
   Glucose
   94
   100
   88
   Other labs: PT / PTT / INR:15.5/30.4/1.4, ALT / AST:23/29, Alk Phos / T
   Bili:67/2.3, Amylase / Lipase:19/10, D-dimer:4611 ng/mL, Fibrinogen:819
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:181 IU/L, Ca++:8.2
   mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   1+ schisto on peripheral smear
   Monospot negative
   Legionella antigen negative
   TTE: The left atrium is normal in size. No atrial septal defect is seen
   by 2D or color Doppler. Left ventricular wall thickness, cavity size
   and regional/global systolic function are normal (LVEF 60%). There is
   no ventricular septal defect. Right ventricular chamber size and free
   wall motion are normal. The aortic valve leaflets (3) appear
   structurally normal with good leaflet excursion and no aortic
   regurgitation. The mitral valve leaflets are elongated. There is mild
   mitral valve prolapse. No mass or vegetation is seen on the mitral
   valve. Trivial mitral regurgitation is seen. There is mild pulmonary
   artery systolic hypertension. No vegetation/mass is seen on the
   pulmonic valve. There is no pericardial effusion.
   CXR: decreased lung volumes, increased diffuse consolidation especially
   at bases bilaterally
   Assessment and Plan
   Ms. [**Known lastname 7854**] is a 20 year old previously healthy female admitted to the
   MICU for hypoxia, tachycardia, thrombocytopenia, anemia, and fever.
   .
   # Fever/Bandemia/tachycardia: Meets criteria for sepsis.  Patient
   received an additional 3L of IVF overnight. Presumptive diagnosis is
   Lemierre
s given the h/o severe sore throat and neck pain followed by
   hypoxia as well as the CT chest c/w septic emboli in setting of growing
   anaerobic GNRs at the OSH. However, the CT of the neck was negative for
   thrombophlebitis although this is only positive in 30-40% of cases.
   Other potential sources include an abdominal source given her original
   presentation including abdominal pain and concern for an acute abdomen.
   Potential alternatives include bacterial pneumonia/CAP, atypical
   pneumonia, although these are less likely.  TTE showed no vegetations,
   ruling out endocarditis as a source of septic emboli.
   -Monitor hemodynamics (MAP>65, UOP>30 cc/hour)
   -Give lasix 10mg IV x 1
   -Follow venous lactate (order tomorrow morning)
   -add diff to CBC
   -f/u blood and urine cx, draw 1 more set blood cx per ID reqs
   -F/u with lab at OSH for speciation and sensitivities of blood cx
   ([**Hospital3 **] [**Telephone/Fax (1) 8772**] EXT 111)
   -Touch base with ID regarding 2 missed doses zosyn; increase dose to
   4.5mg q6h
   -Continue doxycycline for possible atypical pneumonia or tick borne
   illness. Ask ID length of treatment.
   -Sent babesiosis labs per ID request
   -f/u EBV serologies, Lyme serology, Ehrlichia serologies
   -send rapid test/nasopharyngeal swab for respiratory viruses (DFA) per
   ID request
   .
   # Hypoxia: Patient with new oxygen requirement with abnormal CTA chest
   demonstrating scattered ground glass opacities and pulmonary nodules
   versus septic emboli with concern for cavitary RUL lesion.  Overnight
   sats were dropping to high 80s, currently she is on 6L by nasal
   cannula.
   -Continue 02, encourage movement, sitting up in bed
   - Check ABG if sats continue to be sub-optimal
   -Monitor UOP and 02 sat after lasix to see if diuresis improves her
   oxygenation
   .
   # Abdominal pain/Hyperbilirubinemia: Mixed direct and indirect
   hyperbilirubinemia.  Repeat RUQ U/S negative for acute biliary
   process.
   - Serial abdominal exams
   - Supportive care, analgesia prn.
   .
   # Thrombocytopenia/anemia/coagulopathy: Smear negative for
   schistocytes, labs do not indicate hemolysis or DIC. PCP has only seen
   her twice so does not know if she has been worked up for thalassemia.
   - Trend counts
   - f/u Hb electrophoresis
   .
   # HA: LP negative for bacterial or viral meningitis.
   - Acetaminophen, morphine prn
   ICU Care
   Nutrition: ADAT, replete K and phos as needed
   Glycemic Control:  none
   Lines:
   18 Gauge - [**2142-7-3**] 04:00 AM
   20 Gauge - [**2142-7-3**] 04:00 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: not needed, patient eating
   VAP:
   Comments:
   Communication:  Comments: Mother [**Name (NI) 2001**] [**Telephone/Fax (3) 8751**]
   Code status: FULL CODE
   Disposition: ICU level of care

2142-07-04 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -fever to 103.2, tachycardia, sats in high 80s, low 90s
   -got 3L of LR overnight
   -refused a foley
   -UOP 60-70cc/hr
   -repleted K and phos
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2142-7-3**] 10:20 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-7-4**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 37.3
C (99.2
   HR: 124 (107 - 143) bpm
   BP: 119/65(77) {97/50(61) - 122/99(81)} mmHg
   RR: 46 (15 - 46) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                 10,098 mL
                                                                    248 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  3,498 mL
                                                                    248 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                    350 mL
   Urine:
                                                                  2,900 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,198 mL
                                                                   -102 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 6L
   SpO2: 94%
   Physical Examination
   GENERAL: Sleepy, in no apparent distress, mannerisms younger than
   stated age
   HEENT: Normocephalic, atraumatic. No scleral icterus.  MMM. OP clear
   without redness or exudates.  Neck Supple, No LAD, tender over left
   lateral neck adjacent to airway
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1011**].
   LUNGS: diffuse crackles, especially on left
   ABDOMEN: NABS. Soft, ND. Diffuse tenderness. No HSM.
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. No gross motor or sensory deficits
   Labs / Radiology
   64 K/uL
   8.5 g/dL
   88 mg/dL
   0.6 mg/dL
   19 mEq/L
   3.6 mEq/L
   6 mg/dL
   111 mEq/L
   142 mEq/L
   25.8 %
   9.4 K/uL
        [image002.jpg]
                             [**2142-7-3**]  04:33 AM
                             [**2142-7-3**]  03:35 PM
                             [**2142-7-4**]  02:53 AM
   WBC
   5.0
   6.8
   9.4
   Hct
   27.2
   27.2
   25.8
   Plt
   53
   58
   64
   Cr
   0.7
   0.6
   0.6
   Glucose
   94
   100
   88
   Other labs: PT / PTT / INR:15.5/30.4/1.4, ALT / AST:23/29, Alk Phos / T
   Bili:67/2.3, Amylase / Lipase:19/10, D-dimer:4611 ng/mL, Fibrinogen:819
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:181 IU/L, Ca++:8.2
   mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Monospot negative
   Legionella antigen negative
   TTE: The left atrium is normal in size. No atrial septal defect is seen
   by 2D or color Doppler. Left ventricular wall thickness, cavity size
   and regional/global systolic function are normal (LVEF 60%). There is
   no ventricular septal defect. Right ventricular chamber size and free
   wall motion are normal. The aortic valve leaflets (3) appear
   structurally normal with good leaflet excursion and no aortic
   regurgitation. The mitral valve leaflets are elongated. There is mild
   mitral valve prolapse. No mass or vegetation is seen on the mitral
   valve. Trivial mitral regurgitation is seen. There is mild pulmonary
   artery systolic hypertension. No vegetation/mass is seen on the
   pulmonic valve. There is no pericardial effusion.
   CXR:
   Assessment and Plan
   Ms. [**Known lastname 7854**] is a 20 year old previously healthy female admitted to the
   MICU for hypoxia, tachycardia, thrombocytopenia, anemia, and fever.
   .
   # Fever/Bandemia/tachycardia: Meets criteria for sepsis.  Patient
   received an additional 3L of IVF overnight with most recent venous
   lactate of 1.4.  Suspected diagnosis is Lemierre
s given the h/o severe
   sore throat and neck pain and CT chest c/w septic emboli as well as
   growing anaerobic GNRs at the OSH. However, the CT of the neck was
   negative for thrombophlebitis. Other potential sources include an
   abdominal source given her original presentation including abdominal
   pain and concern for an acute abdomen. Potential sources include
   bacterial pneumonia/CAP, atypical pneumonia including Legionella, MTB
   or atypical mycobacterium.  IJ thrombophlebitis after pharyngitis is
   also a distinct possibility with pulmonary nodules representing septic
   emboli/developing cavitary lesions.  Extra-pulmonary infectious sources
   including Ehrlichia given fever, bandemia, HA, thombocytopenia, anemia,
   and LFT abnormalities especially as patient may have been at risk.
   Patient was Influenza A+B and monospot negative at OSH. Patient has no
   risk factors for HIV but cannot be ruled out at this time.
   - Monitor hemodynamics (MAP>65, UOP>30 cc/hour) with IVF boluses prn.
   - Follow venous lactate
   -f/u blood and urine cx
   -F/u with lab at OSH for speciation and sensitivities of blood cx
   ([**Hospital3 **] [**Telephone/Fax (1) 8772**] EXT 111)
   -Continue zosyn for known GNR bacteremia
   -Continue doxycycline for possible atypical pneumonia or tick borne
   illness
   -Sent babesiosis labs per ID request
   -Consider bedside U/S to assess for IJ thrombophlebitis
   -TTE showed no vegetations
   -f/u EBV serologies, Lyme serology, Ehrlichia serologies
   -send rapid test/nasopharyngeal swab for respiratory viruses (DFA) per
   ID request
   .
   # Hypoxia: Patient with new oxygen requirement with abnormal CTA chest
   demonstrating scattered ground glass opacities and pulmonary nodules
   versus septic emboli with concern for cavitary RUL lesion.  Overnight
   sats were dropping to high 80s, currently she is on 6L by nasal
   cannula.
   -Continue 02, encourage movement, sitting up in bed
   - Check ABG if sats continue to be sub-optimal
   - Final CTA chest read includes tuberculosis, other infectious
   pneumonias (bacterial or atypical), and less likely neoplasm, sarcoid,
   Wegener
   .
   # Abdominal pain/Hyperbilirubinemia: Mixed direct and indirect
   hyperbilirubinemia.  Repeat RUQ U/S negative for acute biliary
   process.
   - Serial abdominal exams
   - Hemolysis labs were..
   - Follow-up final CT read to r/o appendicitis.
   - Supportive care, analgesia prn.
   .
   # Thrombocytopenia/anemia/coagulopathy: Smear negative for
   schistocytes, although coagulopathy, anemia, and thrombocytopenia
   somewhat concerning for DIC, consumptive coagulopathy, or hemolysis.
   PCP has only seen her twice so does not know if she has been worked up
   for thalassemia.
   - Trend counts
   - Check hemolysis labs
   - Iron studies
   - f/u Hb electrophoresis
   .
   # HA: LP negative for bacterial or viral meningitis.
   - Acetaminophen, morphine prn
   ICU Care
   Nutrition: ADAT, replete K and phos as needed
   Glycemic Control:  none
   Lines:
   18 Gauge - [**2142-7-3**] 04:00 AM
   20 Gauge - [**2142-7-3**] 04:00 AM
   Prophylaxis:
   DVT: start SCH
   Stress ulcer: not needed, patient eating
   VAP:
   Comments:
   Communication:  Comments: Mother [**Name (NI) 2001**] [**Telephone/Fax (3) 8751**]
   Code status: FULL CODE
   Disposition:

2142-07-04 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -fever to 103.2, tachycardia, sats in high 80s, low 90s
   -got 3L of LR overnight
   -refused a foley
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2142-7-3**] 10:20 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-7-4**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 37.3
C (99.2
   HR: 124 (107 - 143) bpm
   BP: 119/65(77) {97/50(61) - 122/99(81)} mmHg
   RR: 46 (15 - 46) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                 10,098 mL
                                                                    248 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  3,498 mL
                                                                    248 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                    350 mL
   Urine:
                                                                  2,900 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,198 mL
                                                                   -102 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   64 K/uL
   8.5 g/dL
   88 mg/dL
   0.6 mg/dL
   19 mEq/L
   3.6 mEq/L
   6 mg/dL
   111 mEq/L
   142 mEq/L
   25.8 %
   9.4 K/uL
        [image002.jpg]
                             [**2142-7-3**]  04:33 AM
                             [**2142-7-3**]  03:35 PM
                             [**2142-7-4**]  02:53 AM
   WBC
   5.0
   6.8
   9.4
   Hct
   27.2
   27.2
   25.8
   Plt
   53
   58
   64
   Cr
   0.7
   0.6
   0.6
   Glucose
   94
   100
   88
   Other labs: PT / PTT / INR:15.5/30.4/1.4, ALT / AST:23/29, Alk Phos / T
   Bili:67/2.3, Amylase / Lipase:19/10, D-dimer:4611 ng/mL, Fibrinogen:819
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:181 IU/L, Ca++:8.2
   mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOXEMIA
   Assessment and Plan
   Ms. [**Known lastname 7854**] is a 20 year old previously healthy female admitted to the
   MICU for hypoxia, tachycardia, thrombocytopenia, anemia, and fever.
   .
   # Fever/Bandemia/tachycardia: Meets criteria for SIRS with concern for
   infectious process (i.e. sepsis).  Patient has received a total of 10
   liters of IVF (4L OSH, 6L [**Hospital1 19**] ED) with most recent venous lactate of
   2.1.  Potential sources include bacterial pneumonia/CAP, atypical
   pneumonia including Legionella, MTB or atypical mycobacterium.  IJ
   thrombophlebitis after pharyngitis is also a distinct possibility with
   pulmonary nodules representing septic emboli/developing cavitary
   lesions.  Extra-pulmonary infectious sources including Ehrlichia given
   fever, bandemia, HA, thombocytopenia, anemia, and LFT abnormalities
   especially as patient may have been at risk.  Patient was Influenza A+B
   and monospot negative at OSH. Patient has no risk factors for HIV but
   cannot be ruled out at this time.
   - Monitor hemodynamics (MAP>65, UOP>30 cc/hour) with IVF boluses prn.
   - Recheck venous lactate
   - Levofloxacin and doxycline for CAP, atypical and tick borne
   illnesses. Low threshold to expand coverage if hemodynamically
   unstable.
   - Follow-up BCx, final CT read. Can consider bedside U/S to assess for
   IJ thrombus suggestive of thrombophlebitis and starting anaerobic GNR
   coverage (i.e. fusobacterium) coverage with pip/tazo, imipenem, or
   ticarcillin-clav.  If clinical suspicion increases, will order CT neck
   w/ and w/o contrast.
   - Given possibility of septic emboli, will also check TTE. No murmurs
   on exam. Low threshold for expanding coverage.
   - Check Legionella urinary antigen, Ehrlichia and lyme serologies,
   thick and thin smear
   - Recheck monospot, EBV serology
   - Follow-up OSH culture data
   - Repeat BCx
   .
   # Hypoxia: Patient with new oxygen requirement with abnormal CTA chest
   demonstrating scattered ground glass opacities and pulmonary nodules
   versus septic emboli with concern for cavitary RUL lesion.  Given
   overall clinical picture, infectious process is much more likely,
   although non-infectious etiologies including nodular sarcoid are on the
   differential.
   - Negative pressure isolation for now.
   - Cover for CAP and atypical pna with levofloxacin.
   - Check ABG
   - Follow-up final CTA chest read. Will need to consider MTB and
   atypical mycobacterium rule out with induced sputum x3 if read
   continues as cavitary.  Will also need to consider alternative
   diagnoses for cavitary lesion including fungal (Aspergillosis, Cocci,
   Histo) or malignancy.
   .
   # Abdominal pain/Hyperbilirubinemia: Mixed direct and indirect
   hyperbilirubinemia.  Repeat RUQ U/S negative for acute biliary
   process.
   - Serial abdominal exams
   - Trend hyperbili, check hemolysis labs.
   - Follow-up final CT read to r/o appendicitis.
   - Supportive care, analgesia prn.
   .
   # Thrombocytopenia/anemia/coagulopathy: Smear negative for
   schistocytes, although coagulopathy, anemia, and thrombocytopenia
   somewhat concerning for DIC, consumptive coagulopathy, or hemolysis.
   As above, would also consider Parvo B19 on the differential although
   this does not explain hypoxia.
   - Trend counts
   - Check hemolysis labs
   - Iron studies
   - Call PCP in AM to determine baseline hematocrit and platelet as well
   as past hemoglobin electrophoresis.
   - Consider hemoglobin electrophoresis given family history of
   thalassemia
   .
   # HA: LP negative for bacterial or viral meningitis.
   - Acetaminophen prn
   .
   FEN: Regular, replete as necessary
   PPx: SCDs
   Access: PIV
   Code: Full (confirmed)
   Contact: [**Name (NI) **], Mother [**Name (NI) 2001**] [**Telephone/Fax (3) 8751**]
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2142-7-3**] 04:00 AM
   20 Gauge - [**2142-7-3**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2142-07-05 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -low grade fevers, tachypnea, sats worsened in evening to high 80s on
   ?5-6LNC, given another Lasix 10, improved sats to 98%2L, CXR showed:
   interval improvement of b/l lung fields, decreased infiltrates
   - tylenol/morphine/oxycodone for headache, low suspicion pleuritic CP
   - repleted K
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2142-7-5**] 03:56 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2142-7-4**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-7-5**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.3
C (99.2
   HR: 106 (85 - 145) bpm
   BP: 100/51(62) {93/42(56) - 124/83(91)} mmHg
   RR: 35 (20 - 42) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  2,998 mL
                                                                    160 mL
   PO:
                                                                  1,450 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,548 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  4,550 mL
                                                                    950 mL
   Urine:
                                                                  4,550 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,552 mL
                                                                   -790 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   94 K/uL
   8.5 g/dL
   96 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.2 mEq/L
   8 mg/dL
   104 mEq/L
   138 mEq/L
   25.6 %
   8.0 K/uL
        [image002.jpg]
                             [**2142-7-3**]  04:33 AM
                             [**2142-7-3**]  03:35 PM
                             [**2142-7-4**]  02:53 AM
                             [**2142-7-4**]  05:15 PM
                             [**2142-7-5**]  03:56 AM
   WBC
   5.0
   6.8
   9.4
   9.7
   8.0
   Hct
   27.2
   27.2
   25.8
   25.7
   25.6
   Plt
   53
   58
   64
   88
   94
   Cr
   0.7
   0.6
   0.6
   0.7
   0.7
   Glucose
   94
   100
   88
   98
   96
   Other labs: PT / PTT / INR:15.0/29.4/1.3, ALT / AST:32/51, Alk Phos / T
   Bili:98/2.4, Amylase / Lipase:19/10, Differential-Neuts:79.1 %,
   Lymph:16.8 %, Mono:3.5 %, Eos:0.3 %, D-dimer:4611 ng/mL, Fibrinogen:817
   mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.8 g/dL, LDH:197 IU/L, Ca++:8.3
   mg/dL, Mg++:1.5 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 7854**] is a 20 year old previously healthy female admitted to the
   MICU for hypoxia, tachycardia, thrombocytopenia, anemia, and fever.
   .
   # Fever/Bandemia/tachycardia: Meets criteria for sepsis.  Patient
   received over 20L IVF in the first 24 hours and now sats are responding
   well to small doses of lasix PRN. Ongoing low grade fevers not
   surprising as most fevers resolve 8-12 days into this infection.
   Presumptive diagnosis is Lemierre
s given the h/o severe sore throat
   and neck pain followed by hypoxia as well as the CT chest c/w septic
   emboli in setting of growing anaerobic GNRs at the OSH. Lactate stable
   at 1.5, diff shows 80% polys without bands.
   -Continue zosyn 4.5mg q6h
   -Monitor hemodynamics (MAP>65, UOP>30 cc/hour)
   -Continue lasix 10mg IV PRN
   -f/u blood cx
   -Call lab today at [**Hospital **] Hospital for speciation and sensitivities of
   blood cx ([**Hospital3 **] [**Telephone/Fax (1) 8772**] EXT 111)
   -Continue doxycycline for possible atypical pneumonia or tick borne
   illness. Ask ID length of treatment.
   -f/u EBV serologies, Lyme serology, Ehrlichia serologies, babesiosis
   serologies
   .
   # Hypoxia: Patient with new oxygen requirement with abnormal CTA chest
   demonstrating scattered ground glass opacities and pulmonary nodules
   versus septic emboli with concern for cavitary RUL lesion.  Overnight
   sats were dropping to high 80s, improved with IV lasix.
   -Continue 02, encourage movement, sitting up in bed
   - Check ABG if sats continue to be sub-optimal
   -Monitor UOP and 02 sat
   .
   # Abdominal pain/Hyperbilirubinemia: Mixed direct and indirect
   hyperbilirubinemia.  Repeat RUQ U/S negative for acute biliary
   process.  Tbili stable at 2.4. Other labs do not suggest hemolysis
   - Serial abdominal exams
   - Supportive care, analgesia prn.
   .
   # Thrombocytopenia/anemia/coagulopathy: Smear negative for
   schistocytes, labs do not indicate hemolysis or DIC. Platelets rising
   and Hct stable. High suspicion for thalassemia.
   - Trend counts
   - f/u Hb electrophoresis
   .
   # HA: LP negative for bacterial or viral meningitis.
   - Acetaminophen, morphine prn
   ICU Care
   Nutrition: ADAT, encourage PO intake
   Glycemic Control:  none
   Lines:
   18 Gauge - [**2142-7-3**] 04:00 AM
   20 Gauge - [**2142-7-3**] 04:00 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: none
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2142-07-05 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -low grade fevers, tachypnea, sats worsened in evening to high 80s on
   ?5-6LNC, given another Lasix 10, improved sats to 98%2L, CXR showed:
   interval improvement of b/l lung fields, decreased infiltrates
   - tylenol/morphine/oxycodone for headache, low suspicion pleuritic CP
   - repleted K
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2142-7-5**] 03:56 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2142-7-4**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-7-5**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.3
C (99.2
   HR: 106 (85 - 145) bpm
   BP: 100/51(62) {93/42(56) - 124/83(91)} mmHg
   RR: 35 (20 - 42) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  2,998 mL
                                                                    160 mL
   PO:
                                                                  1,450 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,548 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  4,550 mL
                                                                    950 mL
   Urine:
                                                                  4,550 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,552 mL
                                                                   -790 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   GENERAL: Sleeping, in no apparent distress, mildly tachypneic
   HEENT: Normocephalic, atraumatic. No scleral icterus.  MMM. OP clear
   without redness or exudates.  Neck Supple, No LAD, no tenderness
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1011**].
   LUNGS: mild crackles at bases
   ABDOMEN: Soft, ND. Diffuse tenderness. No HSM.
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. No gross motor or sensory deficits
   Labs / Radiology
   94 K/uL
   8.5 g/dL
   96 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.2 mEq/L
   8 mg/dL
   104 mEq/L
   138 mEq/L
   25.6 %
   8.0 K/uL
        [image002.jpg]
                             [**2142-7-3**]  04:33 AM
                             [**2142-7-3**]  03:35 PM
                             [**2142-7-4**]  02:53 AM
                             [**2142-7-4**]  05:15 PM
                             [**2142-7-5**]  03:56 AM
   WBC
   5.0
   6.8
   9.4
   9.7
   8.0
   Hct
   27.2
   27.2
   25.8
   25.7
   25.6
   Plt
   53
   58
   64
   88
   94
   Cr
   0.7
   0.6
   0.6
   0.7
   0.7
   Glucose
   94
   100
   88
   98
   96
   Other labs: PT / PTT / INR:15.0/29.4/1.3, ALT / AST:32/51, Alk Phos / T
   Bili:98/2.4, Amylase / Lipase:19/10, Differential-Neuts:79.1 %,
   Lymph:16.8 %, Mono:3.5 %, Eos:0.3 %, D-dimer:4611 ng/mL, Fibrinogen:817
   mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.8 g/dL, LDH:197 IU/L, Ca++:8.3
   mg/dL, Mg++:1.5 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 7854**] is a 20 year old previously healthy female admitted to the
   MICU for hypoxia, tachycardia, thrombocytopenia, anemia, and fever.
   .
   # Fever/Bandemia/tachycardia: Meets criteria for sepsis.  Patient
   received over 20L IVF in the first 24 hours and now sats are responding
   well to small doses of lasix PRN. Ongoing low grade fevers not
   surprising as most fevers resolve 8-12 days into this infection.
   Presumptive diagnosis is Lemierre
s given the h/o severe sore throat
   and neck pain followed by hypoxia as well as the CT chest c/w septic
   emboli in setting of growing anaerobic GNRs at the OSH. Lactate stable
   at 1.5, diff shows 80% polys without bands.
   -Continue zosyn 4.5mg q6h
   -Monitor hemodynamics (MAP>65, UOP>30 cc/hour)
   -Continue lasix 10mg IV PRN
   -f/u blood cx
   -Call lab today at [**Hospital **] Hospital for speciation and sensitivities of
   blood cx ([**Hospital3 **] [**Telephone/Fax (1) 8772**] EXT 111)
   -Continue doxycycline for possible atypical pneumonia or tick borne
   illness. Ask ID length of treatment.
   -f/u EBV serologies, Lyme serology, Ehrlichia serologies, babesiosis
   serologies
   .
   # Hypoxia: Patient with new oxygen requirement with abnormal CTA chest
   demonstrating scattered ground glass opacities and pulmonary nodules
   versus septic emboli with concern for cavitary RUL lesion.  Overnight
   sats were dropping to high 80s, improved with IV lasix.
   -Continue 02, encourage movement, sitting up in bed
   - Check ABG if sats continue to be sub-optimal
   -Monitor UOP and 02 sat
   .
   # Abdominal pain/Hyperbilirubinemia: Mixed direct and indirect
   hyperbilirubinemia.  Repeat RUQ U/S negative for acute biliary
   process.  Tbili stable at 2.4. Other labs do not suggest hemolysis
   - Serial abdominal exams
   - Supportive care, analgesia prn.
   .
   # Thrombocytopenia/anemia/coagulopathy: Smear negative for
   schistocytes, labs do not indicate hemolysis or DIC. Platelets rising
   and Hct stable. High suspicion for thalassemia.
   - Trend counts
   - f/u Hb electrophoresis
   .
   # HA: LP negative for bacterial or viral meningitis.
   - Acetaminophen, morphine prn
   ICU Care
   Nutrition: ADAT, encourage PO intake
   Glycemic Control:  none
   Lines:
   18 Gauge - [**2142-7-3**] 04:00 AM
   20 Gauge - [**2142-7-3**] 04:00 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: none
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2142-07-05 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -low grade fevers, tachypnea, sats worsened in evening to high 80s on
   ?5-6LNC, given another Lasix 10, improved sats to 98%2L, CXR showed:
   interval improvement of b/l lung fields, decreased infiltrates
   - tylenol/morphine/oxycodone for headache, low suspicion pleuritic CP
   - repleted K
   -blood cx at OSH grew fusobacterium
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2142-7-5**] 03:56 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2142-7-4**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-7-5**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.3
C (99.2
   HR: 106 (85 - 145) bpm
   BP: 100/51(62) {93/42(56) - 124/83(91)} mmHg
   RR: 35 (20 - 42) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  2,998 mL
                                                                    160 mL
   PO:
                                                                  1,450 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,548 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  4,550 mL
                                                                    950 mL
   Urine:
                                                                  4,550 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,552 mL
                                                                   -790 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   GENERAL: Sleeping, in no apparent distress, mildly tachypneic
   HEENT: Normocephalic, atraumatic. No scleral icterus.  MMM. OP clear
   without redness or exudates.  Neck Supple, No LAD, no tenderness
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1011**].
   LUNGS: mild crackles at bases
   ABDOMEN: Soft, ND. Diffuse tenderness. No HSM.
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. No gross motor or sensory deficits
   Labs / Radiology
   94 K/uL
   8.5 g/dL
   96 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.2 mEq/L
   8 mg/dL
   104 mEq/L
   138 mEq/L
   25.6 %
   8.0 K/uL
        [image002.jpg]
                             [**2142-7-3**]  04:33 AM
                             [**2142-7-3**]  03:35 PM
                             [**2142-7-4**]  02:53 AM
                             [**2142-7-4**]  05:15 PM
                             [**2142-7-5**]  03:56 AM
   WBC
   5.0
   6.8
   9.4
   9.7
   8.0
   Hct
   27.2
   27.2
   25.8
   25.7
   25.6
   Plt
   53
   58
   64
   88
   94
   Cr
   0.7
   0.6
   0.6
   0.7
   0.7
   Glucose
   94
   100
   88
   98
   96
   Other labs: PT / PTT / INR:15.0/29.4/1.3, ALT / AST:32/51, Alk Phos / T
   Bili:98/2.4, Amylase / Lipase:19/10, Differential-Neuts:79.1 %,
   Lymph:16.8 %, Mono:3.5 %, Eos:0.3 %, D-dimer:4611 ng/mL, Fibrinogen:817
   mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.8 g/dL, LDH:197 IU/L, Ca++:8.3
   mg/dL, Mg++:1.5 mg/dL, PO4:2.7 mg/dL
   Urine cx neg
   Blood cx at OSH: Fusobacterium
   Assessment and Plan
   Ms. [**Known lastname 7854**] is a 20 year old previously healthy female admitted to the
   MICU for hypoxia, tachycardia, thrombocytopenia, anemia, and fever.
   .
   # Fever/Bandemia/tachycardia: Meets criteria for sepsis.  Patient
   received over 20L IVF in the first 24 hours and now sats are responding
   well to small doses of lasix PRN, Length of stay body volume is still
   positive. Ongoing low grade fevers not surprising as most fevers
   resolve 8-12 days into this infection. Presumptive diagnosis is
   Lemierre
s given the h/o severe sore throat and neck pain followed by
   hypoxia as well as the CT chest c/w septic emboli in setting of growing
   anaerobic GNRs (Fusobacterium) at the OSH. Lactate stable at 1.5, diff
   shows 80% polys without bands.
   -Continue zosyn 4.5mg q6h
   -Ask ID about stopping doxycycline, also about eventual switch to PO
   Flagyl vs PICC
   -Monitor hemodynamics (MAP>65, UOP>30 cc/hour)
   -Continue lasix 10mg IV PRN, goal TBV -1L
   -f/u blood cx
   -OSH lab: [**Hospital3 **] [**Telephone/Fax (1) 8772**] EXT 111
   -f/u EBV serologies, Lyme serology, Ehrlichia serologies, babesiosis
   serologies
   .
   # Hypoxia:. Overnight sats were dropping to high 80s, improved with IV
   lasix.
   -Wean 02 as tolerated, encourage movement, walking, sitting up in bed
   - Check ABG if sats start to be sub-optimal
   -Monitor UOP, give lasix boluses
   -If chest pain worsens can repeat CT to r/o necrotizing mediastinal
   infection. Low suspicion at this point.
   .
   # Abdominal pain/Hyperbilirubinemia: Tbili stable at 2.4. Other labs do
   not suggest hemolysis.
   - Serial abdominal exams
   - Supportive care, analgesia prn.
   .
   # Thrombocytopenia/anemia/coagulopathy: Smear negative for
   schistocytes, labs do not indicate hemolysis or DIC. Platelets rising
   and Hct stable. High suspicion for thalassemia.
   - Trend counts
   - f/u Hb electrophoresis
   .
   # HA: LP negative for bacterial or viral meningitis.
   - Acetaminophen, morphine prn
   ICU Care
   Nutrition: ADAT, encourage PO intake
   Glycemic Control:  none
   Lines:
   18 Gauge - [**2142-7-3**] 04:00 AM
   20 Gauge - [**2142-7-3**] 04:00 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: none
   VAP:
   Comments:
   Communication:  Comments:
   Code status:Full Code
   Disposition: If sats stable, can go to floor today.